US04277498
A suspension of 2-Chloro-N-(1,1-dimethylhexyl)acetamide (2.5 g, 12 m mol) in a mixture of water (50 ml) and ethanol (50 ml) was saturated in ammoniain the cold and held at room temperature for two days with the occasional passage of ammonia. The mixture was evaporated to a gum which was partially dried by azeotroping with ethanol then 40-60 petrol. The residuewas dissolved in chloroform (50 ml) and stirred with sodium carbonate (2 g)and water (10 ml) for 1/2 hour. The organic phase was then separated, driedover magnesium sulphate, evaporated to a yellow oil and distilled to give 2-amino-N-(1,1-dimethylhexyl)acetamide as a colourless oil, b.p. 109°-113° C. at 0.4 mm Hg.

reactant | 2-Chloro-N-(1,1-dimethylhexyl)acetamide | 2.5 g | ClCC(=O)NC(CCCCC)(C)C | C10H20ClNO
reactant | ammonia | N | H3N
solvent | water | 50 ml | O | H2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-amino-N-(1,1-dimethylhexyl)acetamide | NCC(=O)NC(CCCCC)(C)C | C10H22N2O
